US06288091B1
a) tert-Butyl N-(cyclohexylmethyl)-N-(2-hydroxy-2-oxoethyl)carbamate
Ethyl 2-bromoacetate (1.67 g, 10.0 mmol) was added (5 min) to a solution of cyclohexanemethylamine (1.13 g, 10.0 mmol) and Et3N (2.78 mL, 20.0 mmol) in THF (20 mL) at 0°. The mixture was stirred at 0° for 30 min, allowed to warm to room temperature, stirred at room temperature for 1 h and then cooled to 0°. A solution of (Boc)2O (2.20 g, 10.1 mmol) in THF (˜5 mL) was added (10 min) to the reaction mixture. The solution was stirred at 0° for 30 min and then at room temperature for 1.5 h. A solution of LiOH.H2O (1.68 g, 40.0 mmol) in H2O (20 mL) and MeOH (10 mL) was added to the reaction mixture. The mixture was stirred at room temperature for 2.5 h. Thereafter, the organic solvents were removed from the reaction mixture under reduced pressure. The residual aqueous solution was diluted with H2O (125 mL) and washed with a 1:1 mixture of Et2O:Hex (4×100 mL). The aqueous layer was rendered acidic with solid citric acid (pH=3) and then extracted with EtOAc (3×100 mL). The EtOAc extract was washed with brine (2×50 mL), dried (MgSO4) and concentrated under reduced pressure to give the title compound (2.09 g, 77% yield) as a white solid, which was used without further purification: 1H NMR (400 mHz, CDCl3) δ3.96, 3.90 (2 broad s, 2H), 3.11 (broad s, 2H), 1.66-1.70 (m, 5H), 1.47, 1.43 (2s, 9H), 1.13-1.25 (m, 4H), 0.91 (broad s, 2H); MS (FAB) m/z 272 (MH)+.

reactant | Ethyl 2-bromoacetate | 10.0 mmol, 1.67 g | BrCC(=O)OCC | C4H7BrO2
reactant | cyclohexanemethylamine | 10.0 mmol, 1.13 g | C1(CCCCC1)CN | C7H15N
reactant | Et3N | 20.0 mmol, 2.78 mL | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 10.1 mmol, 2.20 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | LiOH.H2O | 40.0 mmol, 1.68 g | O[Li].O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | ˜5 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | tert-Butyl N-(cyclohexylmethyl)-N-(2-hydroxy-2-oxoethyl)carbamate | 2.09 g, 77% yield | C1(CCCCC1)CN(C(OC(C)(C)C)=O)CC(=O)O | C14H25NO4
